US06544985B2
(RS)-[2-(3-Oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-3-yl]-phenyl}-propionylamino)-5-pyrrolidin-1-yl-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester
The title compound was prepared from (2-amino-5-pyrrolidin-1-yl-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester (Example J12) and (RS)-3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-3-yl]-phenyl}-propionic acid tert.-butyl ester (Example K15) according to the general procedure M. Obtained as a yellow foam (522 mg).

reactant | (2-amino-5-pyrrolidin-1-yl-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCCC1)C(F)(F)F)N)=O | C16H22F3N3O2
reactant | (RS)-3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-3-yl]-phenyl}-propionic acid tert.-butyl ester | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=NOC(=C1)COC1OCCCC1)=O)=O | C22H27NO6
product | (RS)-[2-(3-Oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-3-yl]-phenyl}-propionylamino)-5-pyrrolidin-1-yl-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCCC1)C(F)(F)F)NC(CC(C1=CC(=CC=C1)C1=NOC(=C1)COC1OCCCC1)=O)=O)=O | C34H39F3N4O7
